US06087392
Sodium 4-(4-Fluorobenzyloxy)Benzenesulfonate
To a solution of 4-hydroxybenzenesulfonic acid (5.13 grams, 22.1 mmole) in 1N aqueous sodium hydroxide solution (23 mL) was added a solution of 4-fluorobenzylbromide (3.3 mL, 26.5 mmole) in ethanol (20 mL). The resulting mixture was heated at reflux for 2 days. Upon cooling and standing, a white solid precipitated. The precipitated product, sodium 4-(4-fluorobenzyloxy)benzenesulfonate, 4.95 grams (74%) was collected by filtration and washed with ethyl acetate and diethyl ether.

reactant | 4-hydroxybenzenesulfonic acid | 22.1 mmole, 5.13 grams | OC1=CC=C(C=C1)S(=O)(=O)O | C6H6O4S
reactant | 4-fluorobenzylbromide | 26.5 mmole, 3.3 mL | FC1=CC=C(CBr)C=C1 | C7H6BrF
reactant | sodium hydroxide | 1N, 23 mL | [OH-].[Na+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | Sodium 4-(4-Fluorobenzyloxy)Benzenesulfonate | FC1=CC=C(COC2=CC=C(C=C2)S(=O)(=O)[O-])C=C1.[Na+] | InChI=1S/C13H11FO4S.Na/c14-11-3-1-10(2-4-11)9-18-12-5-7-13(8-6-12)19(15,16)17;/h1-8H,9H2,(H,15,16,17);/q;+1/p-1
